US07385059B2
A solution of 4-(2,4-dichloro-phenyl)-1H-pyrazole-3-carboxylic acid (70 mg; 0.27 mmol), 4-(4-methyl-piperazin-1-yl)-benzylamine (62 mg; 0.3 mmol), EDAC (63 mg; 0.33 mmol) and HOBt (45 mg; 0.33 mmol) in 5 ml of DMF was stirred at room temperature for 48 hours. The reaction was evaporated and the residue partitioned between ethyl acetate and brine. The ethyl acetate layer was separated, dried (MgSO4), filtered, evaporated then dried further under vacuum to give 34 mg of 4-(2,4-dichloro-phenyl)-1H-pyrazole-3-carboxylic acid 4-(4-methyl-piperazin-1-yl)-benzylamide. (LC/MS: Rt 2.42 [M+H]+444).

reactant | 4-(2,4-dichloro-phenyl)-1H-pyrazole-3-carboxylic acid | 0.27 mmol, 70 mg | ClC1=C(C=CC(=C1)Cl)C=1C(=NNC1)C(=O)O | C10H6Cl2N2O2
reactant | 4-(4-methyl-piperazin-1-yl)-benzylamine | 0.3 mmol, 62 mg | CN1CCN(CC1)C1=CC=C(CN)C=C1 | C12H19N3
reactant | EDAC | 0.33 mmol, 63 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.33 mmol, 45 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(2,4-dichloro-phenyl)-1H-pyrazole-3-carboxylic acid 4-(4-methyl-piperazin-1-yl)-benzylamide | 34 mg | CN1CCN(CC1)C1=CC=C(CNC(=O)C2=NNC=C2C2=C(C=C(C=C2)Cl)Cl)C=C1 | C22H23Cl2N5O
